Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of spinal stenosis presenting with elevated 
d-dimer, shortness of breath.
.
The patient had been training for a half-marathon and was 
running long distances without issue up until ___ when he noted 
that he became short of breath after running even only ___ mile, 
which was very unusual. Patient reports over the past few days 
he is felt increasingly short of breath with running but none at 
rest, non-positional, without associated chest pain, fever, 
chills, productive cough. He denies any recent illness, surgery, 
joint pain, rash. No history of previous similar symptoms. Does 
report a long plane flight to ___ 2 weeks prior followed by 
flights to and from ___ the following day, but patient states he 
got up and walked around multiple times on the flight. He denies 
leg pain, leg swelling, history of previous similar symptoms. Of 
note, he does have a family history of blood clots (brother had 
clot age ~___, provoked by long car ride). 
.
Patient was seen by PCP and found to have d-dimer above 4000, 
subsequently referred to the ED for further evaluation.
.
In the ED:
Initial vital signs were notable for:
T 97.0 HR 70 BP 159/107 RR 22 sat 100% RA 
Exam was largely unremarkable
Labs were notable for:
Trop-T<0.01, CK-MB 2, proBNP 79
Studies performed include:
CTA chest:
1. Acute saddle pulmonary embolus with extensive bilateral lobar
through subsegmental involvement involving all lobes of the
lungs.
2. Borderline flattening of the interventricular septum with
right ventricular dilatation and borderline enlarged pulmonary
artery diameter are concerning for right heart strain and
correlation with echocardiogram is recommended.
Patient was given:
Heparin gtt
Consults:
MASCOT
Vitals on transfer:
HR 66 BP 133/85 RR 20 sat 97% RA 
.
Upon arrival to the floor, the patient felt completely well. He 
denied any chest pain, dyspnea, palpitations. No other 
complaints.
 
Past Medical History:
Anxiety
White Coat HTN
Lumbar stenosis with neurogenic claudication
Lumbar radiculopathy
Hypercholesterolemia
Multiple Lipomas
 
Social History:
___
Family History:
Brother with hx of provoked DVT/PE
 
Physical Exam:
Admission Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
___ 2229 Temp: 98.1 PO BP: 158/90 R Sitting HR: 65
RR: 18 O2 sat: 98% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. Cap refill wnl. No rash.
NEUROLOGIC: ___ strength throughout. Normal sensation. AOx3.
.
Discharge Physical Exam:
=========================
GENERAL: Well appearing male in NAD.
HEENT: Head is normocephalic. Sclera anicteric and without 
injection. MMM.
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
crackles.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation. No rebound or guarding.
EXTREMITIES: No peripheral edema. DP 2+. No TTP of BLE.
NEUROLOGIC: AOx3.  Moving all 4 limbs spontaneously. 
 
Pertinent Results:
Admission Lab Results:
=======================
.
___ 05:30PM BLOOD WBC-6.2 RBC-4.71 Hgb-15.1 Hct-45.3 MCV-96 
MCH-32.1* MCHC-33.3 RDW-12.1 RDWSD-43.0 Plt ___
___ 05:30PM BLOOD ___ PTT-26.7 ___
___ 05:30PM BLOOD Glucose-107* UreaN-13 Creat-0.9 Na-137 
K-3.9 Cl-99 HCO3-26 AnGap-12
___ 05:30PM BLOOD CK(CPK)-135
___ 05:30PM BLOOD Calcium-10.1 Phos-3.3 Mg-2.2
.
Pertinent Lab Results:
=======================
___ 05:30PM BLOOD CK-MB-2 proBNP-79
___ 05:30PM BLOOD cTropnT-<0.01
.
Imaging:
CTA chest
1. Acute saddle pulmonary embolus with extensive bilateral lobar 
through 
subsegmental involvement involving all lobes of the lungs. 
2. Borderline flattening of the interventricular septum with 
right ventricular 
dilatation and borderline enlarged pulmonary artery diameter are 
concerning 
for right heart strain and correlation with echocardiogram is 
recommended. 
.
___
IMPRESSION:   
1. Deep vein thrombus visualized in the right calf, in one of 
the right 
posterior tibial veins and in one of the right peroneal veins.  
Occlusive 
thrombus is also seen in the right lesser saphenous vein. 
2. No DVT seen in the left leg. 
.
Discharge Lab Results:
=======================
.
___ 05:57AM BLOOD WBC-6.4 RBC-4.92 Hgb-15.6 Hct-47.0 MCV-96 
MCH-31.7 MCHC-33.2 RDW-12.2 RDWSD-43.2 Plt ___
___ 05:57AM BLOOD ___ PTT-69.2* ___
___ 05:57AM BLOOD Glucose-113* UreaN-12 Creat-1.0 Na-143 
K-4.3 Cl-106 HCO3-25 AnGap-12
___ 05:30PM BLOOD cTropnT-<0.01
___ 05:57AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.3
 
Brief Hospital Course:
Mr. ___ is a healthy ___ y/o man who presented to the hospital 
with new onset dyspnea on exertion and significant reduction in 
exercise tolerance, who was found to have extensive pulmonary 
embolism, and RLE DVT.
.
#Acute PE:
At baseline he is an avid runner but ___ days prior to admission 
he noted significant reduction in his exercise tolerance. He 
presented to his PCP who noted elevated d-dimer and he was 
ultimately referred to our ED where CTA chest showed "Acute 
saddle pulmonary embolus with extensive bilateral lobar through 
sub-segmental involvement involving all lobes of the lungs." 
Troponin and BNP were not elevated and TTE showed RV dilation 
without other evidence of RV strain or pulmonary hypertension. 
He was continued on heparin drip for around 48 hours and 
transitioned to apixaban 10 BID prior to discharge. 
.
Of note, he did report two plane flights around 2 weeks prior to 
admission (one of which was transatlantic), which are a 
provoking factor. However, he has a brother who had a VTE, which 
raises concern for inheritable hypercoagulable state. MASCOT 
team recommended follow up with hematology to determine the need 
for hypercoagulability workup. Also of note, he was not up to 
date on malignancy screening and should have a colonoscopy once 
discharged and consider a PSA. At least 6 months of 
anticoagulation is recommended. 
.
#CONTACT: ___ (wife) ___
.
Transitional Issues: 
[] Continue Apixaban: 
   - 10mg BID ___ 
   - 5mg BID starting ___ 
   - Duration at least 6 months
   - Please refer to ___ Hematology for decision regarding 
hypercoagulability workup. 
[] Please complete age-appropriate cancer screening including: 
colonoscopy and consider PSA testing 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Apixaban 10 mg PO BID 
RX *apixaban [Eliquis] 5 mg (74 tabs) 10 mg by mouth twice a day 
Disp #*1 Dose Pack Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you here at ___ 
___. 

Why you were here: 
- You had shortness of breath and we found that you had a 
pulmonary embolism. There were multiple locations of blood clot 
in the blood vessels of your lung. 

What we did while you were here: 
- We assessed your blood clot using several studies: 
    - An ultrasound of hte legs showed a small amount of blood 
clot left in the superficial veins of the right leg. This is 
most likely where the blood clot started off before it went into 
the lungs. 
   - A CT scan showed blood clot in multiple arteries in the 
lungs. 
   - Your echo was not entirely normal but showed minimal signs 
of strain on the heart. 
- We also gave you a blood thinner, initially by IV and then via 
an oral medication called Apixaban (or Elequis) 

What to do when you go home: 
- It is VERY important to take your apixaban twice every day 
without missing any doses. For the first 7 days (___) you 
will take a higher dose (10mg) twice daily. Starting on ___ you 
will take 5mg twice daily and continue this dose going forward. 
- It is okay to walk around but we recommend that you stay away 
from running and all other strenuous exercise until you are 
cleared by your primary care doctor. 
- Your primary care doctor should refer you to a Hematologist 
for consideration of whether you need a workup for underlying 
familial pro-clotting state. 
- It is very important that you get your colonoscopy. Please 
also discuss getting a PSA to test for prostate cancer with your 
primary care doctor. 

We with you the best! 
Sincerely, 
Your Care Team 

 
Followup Instructions:
___